US05155113
Preparation of 6-benzoyloxy-2-(4-chlorobenzoyloxy)-3-cyanopyridine
The general procedure of Example 90 was followed using 1.00 g of 6-benzoyloxy-3-cyano-2-hydroxypyridine and 0.72 g of 4-chlorobenzoyl chloride, thereby producing 1.29 g of the title compound in a yield of 82%.

reactant | 6-benzoyloxy-3-cyano-2-hydroxypyridine | 1.00 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C(=N1)O)C#N | C13H8N2O3
reactant | 4-chlorobenzoyl chloride | 0.72 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 6-benzoyloxy-2-(4-chlorobenzoyloxy)-3-cyanopyridine | 1.29 g, yield of 82% | C(C1=CC=CC=C1)(=O)OC1=CC=C(C(=N1)OC(C1=CC=C(C=C1)Cl)=O)C#N | C20H11ClN2O4
